US07090780B2
A 2-liter three-neck flask was charged with 280 g of maleic anhydride and 428 ml of ultrapure water for dissolution. To the aqueous solution, 500 g of 48 wt % potassium hydroxide aqueous solution was added dropwise using a dropping funnel with cooling to keep the temperature at room temperature. Then, 18.8 g of sodium tungstate was added, and subsequently 332 g of 35% hydrogen peroxide water was added dropwise. The mixture was stirred for about 30 minutes, and 115 g of 48 wt % potassium hydroxide aqueous solution was gradually added. In this case, the flask was quickly cooled to keep the reaction temperature at 55 to 65° C. Then, the reaction mixture was kept at 65 to 60° C. for 30 minutes, to obtain a potassium epoxysuccinate aqueous solution. The aqueous solution was cooled to room temperature and concentrated to 300 ml, and it was poured into 1 liter of acetone. The produced precipitate was secured by filtration, for isolation as potassium epoxysuccinate.

reactant | maleic anhydride | 280 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen peroxide water | 332 g | O.OO
catalyst | sodium tungstate | 18.8 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | water | 428 ml | O | H2O
product | potassium epoxysuccinate | O1C(C(=O)[O-])C1C(=O)[O-].[K+].[K+] | InChI=1S/C4H4O5.2K/c5-3(6)1-2(9-1)4(7)8;;/h1-2H,(H,5,6)(H,7,8);;/q;2*+1/p-2
